US06211200B1
2,5-Bis[2-benzimidazolylimino]-3a,6a-bis(2-pyridyl)-1,2,3,3a,4,5,6,6a-octahydroimidazo[4,5-d]imidazole.
A mixture of 2,2′-pyridil (15.8 g, 74.4 mmol) and 2-guanidinobenzimidazole (19.5 g, 111.7 mmol) in methanol (440 mL) was treated with a solution of sodium hydroxide (2.97 g, 74.4 mmol) in 74 mL and the resulting mixture was left standing at room temperature for 4 days. The crystalline material was filtered and dried under vacuum to yield 21.1 g of the title compound as off-white crystals (72%). mp: 305-307° C. (dec); HPLC retention time 4.5 min (reversed phase, Beckman ultrasphere ODS 4.6 mm×25 cm column, 20 min gradient elution with 20:80 to 60:40 acetonitrile:water containing 0.1% TFA@2 mL/min); 1H NMR (300 MHz, d6-DMSO) d 11.5 (br s, NH, 2 H), 10.0 (br s, NH, 2 H), 8.6 (br s, NH, 2 H), 8.38 (d, J=4.2 Hz, 2 H), 7.55 (t,J=7.8 Hz, 2 H), 7.29 (d, J=7.8 Hz, 2 H), 7.27-7.21 (m, 4 H), 7.14 (br s, 2 H), 6.98 (dd, J=5.8, 3.2 Hz, 4 H); MS (ESI) m/z 527 [M+H]+; Anal. Calcd. for C28H22N12. ⅔H2O: C, 62.44; H, 4.37, N, 31.21; Found: C, 62.72; H, 4.08; N, 30.86.

reactant | 2,2′-pyridil | 74.4 mmol, 15.8 g | C1=CC=NC(=C1)C(=O)C(=O)C2=CC=CC=N2 | C12H8N2O2
reactant | 2-guanidinobenzimidazole | 111.7 mmol, 19.5 g | N(C(=N)N)C=1NC2=C(N1)C=CC=C2 | C8H9N5
reactant | sodium hydroxide | 74.4 mmol, 2.97 g | [OH-].[Na+]
solvent | methanol | 440 mL | CO | CH4O
product | 2,5-Bis[2-benzimidazolylimino]-3a,6a-bis(2-pyridyl)-1,2,3,3a,4,5,6,6a-octahydroimidazo[4,5-d]imidazole | 21.1 g, 72% | N1=C(NC2=C1C=CC=C2)N=C2NC1(C(NC(N1)=NC=1NC3=C(N1)C=CC=C3)(N2)C2=NC=CC=C2)C2=NC=CC=C2 | C28H22N12
